US05773530
To a solution of 3-[2-{2-(N-ethoxycarbonylmethyl-N-methylcarbamoyl)methyl-1-cyclohexenyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (710 mg) in a mixture of dioxane (7 ml) and water (4 ml) was added 1N-aqueous sodium hydroxide solution (3.4 ml), which was stirred for two hours at room temperature. The reaction mixture was poured into ethyl acetate (100 ml) and aqueous layer was collected, which was adjusted to pH 1.5 with 6N-aqueous hydrochloric acid and extracted with ethyl acetate (100 ml×2). Organic layers were combined, washed in turn with water (50 ml×3) and brine (50 ml×2), and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (80 ml) eluting in turn with dichloromethane, 5%, 10%, 15% methanol in dichloromethane. Fractions containing desired product were collected. Evaporation of the solvent gave a residue, which was recrystallized from a mixture of dichloromethane and n-hexane to give 3-[2-{2-(N-carboxymethyl-N-methylcarbamoyl)methyl-1-cyclohexenyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (300 mg).

reactant | 3-[2-{2-(N-ethoxycarbonylmethyl-N-methylcarbamoyl)methyl-1-cyclohexenyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 710 mg | C(C)OC(=O)CN(C(=O)CC1=C(CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)C | C30H31N5O4
reactant | sodium hydroxide | 3.4 ml | [OH-].[Na+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
solvent | water | 4 ml | O | H2O
product | 3-[2-{2-(N-carboxymethyl-N-methylcarbamoyl)methyl-1-cyclohexenyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 300 mg | C(=O)(O)CN(C(=O)CC1=C(CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)C | C28H27N5O4
